Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
TBI
 
Major Surgical or Invasive Procedure:
___: Right Burr hole for ___ evacuation
___: Right MMA embolization 
___: PEG placement

 
History of Present Illness:
___ male who presents to ___ on ___ with a 
moderate TBI. Patient intubated and sedated on arrival. History 
obtained from medflight, and OSH records. 

Patient was reportedly on his bicycle this afternoon, 
un-helmeted and un-witnessed, unknown LOC. The patient was able 
to get himself to his sister's house, and was there for a half 
an hour, before his family realized he was acting "off", with 
altered mental status. Family reportedly took the patient to ___ 
(___, where upon arrival, he had a decline 
in his mental status. Per report the patient was not following 
commands, but verbalizing, saying "help me" and moving all 
extremities antigravity. Patient intubated for airway protection 
and NCHCT was obtained which demonstrated multiple areas of IPH, 
SDH along the falx and multiple facial, skull fractures. Patient 
was transferred via medflight to ___ for further evaluation.  

Per medflight report, patient went into afib during transport, 
then to ___. He was shocked and converted back to afib. 
Patient was HTN in the 180s/120s, which came down to 120s/80s 
after receiving fentanyl. Patient was given a 250cc Bolus of 3% 
during medflight.  

Neurosurgery was consulted for further evaluation on arrival to 
___. Sedation could not be fully held for examination 
as patient was not able to tolerate it, bucking at ET tube and 
biting down on it. 

Mechanism of trauma: Fall off bicycle 

 
Past Medical History:
- CAD, MI, stent x 3
- HTN
- Dyslipidemia
- Hep C
- Chronic back pain
- NIDDM, controlled with diet
- Tonsillectomy
- Prior surgery to left shoulder
- h/p Spinal surgery
- Plate in skull
- Anxiety
- Depression
- Panic attacks
- PTSD
 
Social History:
___
Family History:
NC
 
Physical Exam:
ON ADMISSION:
************

Physical Exam:

***Sedation could not be fully held for examination as patient
was not able to tolerate it, bucking at ET tube and biting down
on it. Exam below is under light sedation***

GCS at the scene: Unknown 

GCS upon Neurosurgery Evaluation: 7T       
Time of evaluation: 1:30AM

Airway: [x]Intubated   [ ]Not intubated

Eye Opening: 
 [x]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [ ]4 Opens eyes spontaneously

Verbal:
 [x]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [x]5 Localizes to painful stimuli
 [ ]6 Obeys commands

Exam:

Gen: Patient intubated, sedation
HEENT: Bleeding from the left ear. Right periorbital edema. 
Neck: supple
Extrem: warm and well perfused

Neuro:

Mental Status: Intubated, sedated. 

Orientation: Intubated and sedated, not oriented. 

Language: Unable to assess 

If Intubated:
  [x]Cough  [x]Gag  
 *Patient bucking and biting on the tube while on light sedation 


Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 2.5mm to
2mm bilaterally.
III, IV, VI: Unable to assess
V, VII: Unable to assess
VIII: Unable to assess
IX, X: Not tested 
XI: Unable to assess
XII: Unable to assess

Motor: 
Unable to complete a formal motor exam, but on light sedation
patient localizes antigravity with good strength in bilateral
uppers. He attempts to reach for the ET tube. He withdraws
briskly in bilateral lower extremities 

Sensation: Intact to light touch

------

Off Sedation, he EO to light noxious but does not sustain. 
PERRL.
No commands. Moves BUE spontaneously and purposefully full
strength, antigravity. Patient wild, trying to pull off clothes,
grabbing at things. Moves RLE spontaneously. Withdraws localizes
but less than the right, yet withdraws briskly to noxious. 

Repeat Exam GCS: 8T. 

ON DISCHARGE:
*************
Opens eyes: [x]Spontaneous [ ]To voice [ ]To noxious 
Seated in the chair at nursing station, alert and conversant.
Orientation: Alert and oriented to name, ___, ___,
and ___.

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils: PERRL 3->2mm, bilaterally 

EOM: [x]Full [ ]Restricted 

Face Symmetric: [ ]Yes [x]No - mild left facial

Tongue Midline: [x]Yes [ ]No 

Pronator Drift: [ ]Yes [x] No

Speech Fluent: [x]Yes [ ]No 

Comprehension intact: [x]Yes [ ]No

Motor:
    Trap Delt Bi Tri Grip  IP  Quad Ham  AT ___
L    5   5    5   5    5    4    4   4    ___

Wound: 
Right sided incision area of granulation tissue, no drainage or
surrounding erythema. 

 
Pertinent Results:
Please refer to OMR for pertinent imaging and lab results. 
___ 07:57AM BLOOD WBC-4.1 RBC-4.12* Hgb-12.6* Hct-39.5* 
MCV-96 MCH-30.6 MCHC-31.9* RDW-14.6 RDWSD-50.6* Plt ___
___ 06:55AM BLOOD Neuts-63.6 ___ Monos-11.1 Eos-3.6 
Baso-0.3 Im ___ AbsNeut-4.98 AbsLymp-1.64 AbsMono-0.87* 
AbsEos-0.28 AbsBaso-0.02
___ 07:57AM BLOOD Plt ___
___ 07:57AM BLOOD Glucose-121* UreaN-17 Creat-0.7 Na-144 
K-4.2 Cl-106 HCO3-27 AnGap-11
___ 07:57AM BLOOD ALT-85* AST-57*
___ 04:40AM BLOOD ALT-76* AST-50*
___ 05:10AM BLOOD ALT-72* AST-46* AlkPhos-113 TotBili-<0.2
___ 05:15AM BLOOD ALT-77* AST-55*
___ 06:18AM BLOOD ALT-63* AST-43* LD(LDH)-245 AlkPhos-130 
TotBili-0.2
___ 07:40PM BLOOD ALT-62* AST-39 LD(LDH)-179 AlkPhos-124 
TotBili-0.3
___ 07:57AM BLOOD Calcium-9.8 Phos-4.1 Mg-1.8
 
Brief Hospital Course:
Patient was admitted to neurosurgery on ___ s/p fall off 
bicycle while intoxicated with TBI, bifrontal, bitemporal IPH 
and SDH along falx. He was transferred to the Neuro ICU for 
atrial fibrillation/tachycardia. Following improvement in the 
NICU, she was transferred to the step down unit, and eventually 
the floor where his neurologic exam remained stable. 

#TBI
Patient was admitted to neurosurgery to the ICU. He was started 
on Keppra and hypertonic saline for Na control. Repeat NCHCT was 
obtained 6 hours from prior which remained stable. The patient 
remained in the TSICU intubated and sedated. He was extubated on 
___. Repeat CTs on ___ and ___ were stable. Patient was 
reintubated on ___ for respiratory issues. Patient self 
extubated from a forceful cough and maintained his respiratory 
status on shovel mask. His pupils were dilated by ophthalmology 
on ___. He was reintubated on ___ and later extubated on 
___. MRI of the brain on ___ showed no evidence of stroke. 
He was restrated on gabapentin and Seroquel was decreased. His 
salt tabs were eventually weaned to off for normal sodium 
levels. Guardianship paperwork was started on ___, as the 
patient's ex-wife no longer wished to fulfill that role, however 
on ___, she agreed to continue being his HCP. On ___, he was 
unable to move his left upper extremity, and would only 
minimally withdraw to noxious stimuli. Head CT revealed a large 
chronic right sided subdural hematoma. The patient was taken to 
the OR urgently for right burr hole for evacuation. The OR was 
uncomplicated. Please see OMR for further intraoperative 
details. Postoperative imaging showed improvement and remained 
stable. The patient remained intubated postoperatively and was 
taken for a right MMA embolization the next day, on ___. This 
procedure was also uncomplicated. Please see OMR for further 
intraoperative details. The patient was extubated on ___. He 
remained neurologically stable and was transferred to the ___ 
on ___. The patient's neurological status improved while in 
___, and he was noted to be more alert and conversant. The 
patient's neurological status continued to improve in the NIMU 
as sedating medications were weaned off. The patient was 
transferred to the floor for further care awaiting disposition. 
On the floor, he had intermittent episodes of agitation and 
repeatedly tried to get out of bed. On ___, he fell onto the 
ground while trying to get out of bed, however, HCT was stable 
following the incident. He was re-evaluated by psychiatry who 
recommended increasing Depakote for agitation. On Depakote, LFTs 
became elevated. Depakote stopped on ___ per hepatology 
recommendations. Due to continued pain, gabapentin was titrated 
up as tolerated with a goal of 
returning the patient to his home dose of gabapentin. He was 
found to be picking at his incision, and this was closely 
monitored. Incision remained dry with granulation tissue. The 
patient was occasionally felt to be depressed, and when 
psychiatry was consulted they recommended outpatient follow up 
once patient is in rehab. Follow up will also be arranged with 
Dr. ___ in neurosurgery in approximately 4 weeks. He will 
return and a repeat HCT will be performed to assess for 
resolution of the SDH. At the time of discharge, he was 
ambulating with assistance using the walker, pain was adequately 
controlled on an oral regimen and his neurologic exam remained 
stable. 

#Decreased Left Lower Extremity Movement
The patient had an MRI of the total spine in the setting of 
continued decreased movement of his left lower extremity, which 
was notable for syringohydromyelia and old blood products within 
the thoracic spine. Per patient's family, the patient was also 
ambulating previously with a cane. This is likely traumatic 
syringomyelia vs chronic arachnoiditis leading to syringomyelia. 
On ___, the patient was not moving his left lower extremity as 
well as the prior day and a CT head was ordered which revealed 
stable HCT. The change in mental status was likely due to opioid 
medications for PEG placement. Patient's LLE improved over the 
course of his hospital stay. However, the patient will need 
continued intensive physical therapy to increase mobility and 
strength, and to increase function in the left lower extremity. 
He is at significant risk for falls and should be maintained on 
fall precautions, with additional fall precautions such as a low 
bed at nighttime. 

#Fevers 
On ___ the patient spiked fever and was started on vanc/zosyn. 
He was pan cultured. Due to persistent tachycardia, blood 
cultures were obtained on ___ that showed staphylococcus, 
however this was likely a contaminate as blood cultures x3 were 
negative thereafter.  The patient was treated for an aspiration 
pneumonia with ceftriaxone. A CXR obtained on ___, 
demonstrated no focal consolidation or concern for pneumonia. 
Ceftriaxone was discontinued ___. The patient remained afebrile 
for the remainder of his hospitalization.

#Transaminitis
On ___, patient was noted to have elevated LFT's.  Hepatology 
was consulted who recommended discontinuing Depakote in the 
setting of hepatitis C and elevated LFT's. Repeat LFT's were 
trended, hepatitis panel was sent. Liver U/S was performed which 
revealed mild splenomegaly and normal morphology of liver 
without lesions noted. LFTs were checked daily while in hospital 
and were down trending since cessation of Depakote, however on 
monitoring on ___ they increased and were closely monitored 
for the remainder of his hospitalization. LFTs were also checked 
on ___ and showed slightly elevated AST and ALT. LFTs should 
be continued to be followed with his PCP to assess for rapid 
elevation. Caution should be used when using Depakote for mood 
stabilization as this previously resulted in significant LFT 
elevation.  

#ETOH withdrawal/agitation
The patient developed ETOH withdrawal and agitation while in the 
TSICU. He was started on Seroquel and Precedex drip. He was 
given small phenobarbital bolus x1, and was later started on a 
phenobarbital taper. The patient then continued on Seroquel and 
Clonidine with PRN Haldol IV. Psych was consulted on ___ for 
further recommendations. He was started on Depakote QHS on 
___, this dose was titrated per psychology recommendations 
according to patients response and agitation. Patient was 
discharged on Depakote 250mg Q12hrs, 25mg Seroquel PRN HS. On 
___, clonidine was titrated down to 0.1mg q8hrs per cardiology 
recs. On ___, the clonidine was further titrated down. 
Agitation improved over the course of his hospitalization. He is 
no longer requiring Seroquel, deptakote, or restraints. 

#Orbital roof fracture
Orbital roof fracture was noted on CT, ophthalmology and plastic 
surgery were consulted. Lateral canthotomy was lengthened. No 
globe injury was identified.  No urgent surgical intervention 
was recommended.  His pupils were dilated by ophthalmology on 
___ after extubation. Optho re-evaluated the patient on ___ 
to measure ocular pressures and findings were likely normal. 
Ophthalmology unable to fully assess visual acuity due to 
patient's metal status. They recommend follow up outpatient for 
a routine exam and patient as discharged with information to 
make this appointment. (See discharge info for phone number of 
clinic). 

#Left parietal bone fracture
ENT was consulted for recommendations on management of fracture. 
No acute intervention was recommended. He completed a course of 
Neomycin-Polymyxin-HC otic drops. There was no facial paralysis 
noted upon extubation. Patient needs follow-up with ENT for his 
Ossicular chain discontinuity. 

#New onset Afib
The patient developed new onset Atrial Fibrillation while in the 
TSICU. He was not a candidate for anticoagulation in the setting 
of recent TBI with contusions. On ___, due to persistent 
hypertension and tachycardia not controlled by IV
Metoprolol, and he was transferred to the NICU where he briefly 
required a Nicardipine, Diltiazem drip and Precedex. He later 
improved and was able to tolerate PO medications. On ___, the 
patient's HR dipped down into the 30's, but he remained 
asymptomatic. His PO Diltiazem was held. Overnight on the ___, 
he went back into atrial fibrillation and his PO Diltiazem was 
resumed at 30mg Q6hrs. Patient also on PO metoprolol tartrate, 
which was increased on ___ to 50mg q6hrs due to persistent 
afib with RVR. Based on cardiolgy recommendations, Metoprolol 
was further increased to 75 mg q6 hr. Patient to discuss 
anticoagulation options for Afib at outpatient follow up. On 
___, patient's HR's transiently down to ___ while sleeping, 
while awake HR 40-50s. Metoprolol decreased to 37.5mg q6h.

Based on cardiology recommendations, the patient was then 
transitioned to Digoxin 0.25, long acting digoxin 240 mg, and 
Metoprolol succinate 200 mg. Due to episodes of bradycardia the 
patient was then transitioned back to q6 dosing of metoprolol 
and diltiazem to prevent prolonged bradycardic episodes. Patient 
should follow up with a PCP to adjust these medications as 
needed. Patient will also need cardiology follow-up given 
persistent afib, and to titrate medications as needed. The 
patient should not be started on systemic anti-coagulation until 
cleared by neurosurgery. 

#Nutrition
The patient was evaluated by SLP, who recommended that he be 
NPO. An NG tube was placed, which the patient pulled out. 
Attempts were made to replace it x7, without success. GI was 
consulted and attempted to replace it, but was unsuccessful. It 
will be replaced under visualization on ___. Formal speech 
trials were attempted again however patient did not do well 
given oral secretions and altered mentation. After multiple 
failed attempts to replace NGT, the patient was brought to 
endoscopy suite with GI to place NJ tube. He was started on tube 
feedings with recommendations for nutrition. On the morning of 
___, the patient became acutely agitated and self-discontinued 
NJ tube despite restraints. However, he was then able to eat his 
meals with 1:1 RN supervision. SLP re-evaluated the patient on 
___, and continued to recommend NPO with trials under RN 
supervision. Due to acute decompensation from worsening ___ 
patient was again unable to safely intake PO. An NG tube was 
placed successfully post-operatively. Speech evaluated patient 
again post-operatively on ___ and recommended patient be NPO 
and PEG placement for continued nutritional support. ACS was 
consulted for PEG placement. Nutrition consult recommended 
temporary PPN until PEG placed. PEG was placed on ___ without 
issues. When CXR was obtained and showed increased air under the 
right hemi diaphragm, ACS evaluated the patient and felt that 
findings were not concerning. On ___ the patient was more 
awake, and SLP cleared for sips of water. Over the subsequent 
few days, this swallowing improved, and he was cleared for a 
ground diet. Tubefeeds were changed to being cycled overnight. 
Cleared for regular diet and thin liquids with supervision on 
___. Tolerating diet with 1:1 supervision, PEG remains in 
place but not currently receiving tube feedings. Patient's PEG 
site looked red and the bumper was not visible on ___. ACS was 
paged who pulled back the bumper and removed the T bumper and 
replaced it with a star bumper on ___. ACS did not 
recommend prophylactic abx at this time as WBC low and no signs 
of infection. Patient will continue with PEG placement for at 
least ___ weeks post placement, then may be removed. Nursing 
performed PEG tube checks every shift during hospitalization. 
The patient will need to seen by ___ at ___ in ___ weeks for 
PEG removal. Please call to schedule outpatient appointment. 
 
AHA/ASA Core Measures for SAH/ ICH:
1. Dysphagia screening before any PO intake? [x]Yes []No
2. DVT prophylaxis administered? [x]Yes []No
3. Smoking cessation counseling given? [x]Yes []No [Reason: 
()non-smoker  ()unable to participate]
4. Stroke Education given in written form? [x]Yes []No
5. Assessment for rehabilitation and/or rehab services 
considered? [x]Yes []No

Stroke Measures:
1.Was ___ performed within 6hrs of arrival? []Yes [x]No - 
not SAH
2.Was a Procoagulant Reversal agent given? []Yes [x]No  [Reason: 
Not anticoagulated
3.Was Nimodipine given? []Yes [x]No [Reason: not SAH]
 
Medications on Admission:
1. Gabapentin 1200 mg PO TID 
2. Pravastatin 40 mg PO QPM 
3. Metoprolol Tartrate 25 mg PO BID 
4. Pantoprazole 20 mg PO Q24H 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
6. Aspirin 81 mg PO DAILY 
7. Mirtazapine 15 mg PO QHS 

 
Discharge Medications:
1.  Artificial Tears GEL 1% 2 DROP RIGHT EYE Q6H 
RX *dextran 70-hypromellose (PF) [Artificial Tears (PF)] 0.1 
%-0.3 % 2 drops PF Every 6 hours Disp #*1 Bottle Refills:*2 
2.  Bisacodyl 10 mg PO DAILY 
RX *bisacodyl 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*2 
3.  Digoxin 0.25 mg PO DAILY 
RX *digoxin 125 mcg 1 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*2 
4.  Diltiazem 60 mg PO Q6H 
RX *diltiazem HCl 60 mg 1 tablet(s) by mouth Every 6 hours Disp 
#*60 Tablet Refills:*2 
5.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth Twice daily Disp 
#*60 Tablet Refills:*2 
6.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*2 
7.  Heparin 5000 UNIT SC BID 
RX *heparin (porcine) in 0.9% NaCl 5,000 unit/5 mL (1,000 
unit/mL) 5000 Units SC Twice daily Disp #*60 Syringe Refills:*2 
8.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
RX *lansoprazole 30 mg 1 tablet(s) by mouth Daily Disp #*60 
Tablet Refills:*2 
9.  Lidocaine 5% Patch 1 PTCH TD QPM back pain 
RX *lidocaine [Lidocaine Pain Relief] 4 % Apply a new patch to 
the lower back Every night Disp #*60 Patch Refills:*2 
10.  Multivitamins W/minerals Chewable 1 TAB PO DAILY 
RX *pediatric multivit-iron-min [Multi-Vitamins with Iron]  1 
tablet(s) by mouth Daily Disp #*60 Tablet Refills:*2
RX *pediatric multivit-iron-min [Multi-Vitamins with Iron]  1 
tablet(s) by mouth Daily Disp #*60 Tablet Refills:*2 
11.  Nicotine Patch 14 mg/day TD DAILY 
RX *nicotine 14 mg/24 hour Apply a new patch directly onto the 
skin Daily Disp #*42 Patch Refills:*0 
12.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 

  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 4 hours Disp #*42 
Tablet Refills:*0 
13.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 17 g powder(s) by 
mouth Daily Refills:*1 
14.  Ramelteon 8 mg PO QHS Insomnia (pill needs to be given 
whole!) 
Should be given 30 minutes before bedtime 
RX *ramelteon [Rozerem] 8 mg 1 tablet(s) by mouth Ever night 
Disp #*60 Tablet Refills:*2 
15.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth Twice daily Disp 
#*30 Tablet Refills:*2 
16.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth Daily 
Disp #*60 Tablet Refills:*2 
17.  Zonisamide 100 mg PO DAILY 
RX *zonisamide 100 mg 1 capsule(s) by mouth Daily Disp #*60 
Capsule Refills:*2 
18.  Gabapentin 1200 mg PO BID  
19.  Gabapentin 300 mg PO QHS  
20.  Metoprolol Tartrate 37.5 mg PO Q6H  
21.  Aspirin 81 mg PO DAILY  
22.  Mirtazapine 15 mg PO QHS  
23.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
24.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
TBI, bifrontal IPH, SDH, Orbital roof fracture with R globe 
proptosis, right superior orbital rim fx, Left parietal bone fx, 
extends to temporal and mastoid bone, thoracic syrinx, 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Traumatic Brain Injury

Surgery
 You underwent a surgery called a craniotomy to have blood 
removed from your brain. 
 It is best to keep your incision open to air but it is ok to 
cover it when outside. 
 Call your surgeon if there are any signs of infection like 
redness, fever, or drainage from the incision.

Activity
 We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
 You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
 You make take a shower.
 No driving while taking any narcotic or sedating medication. 
 If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
 No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
 Please do NOT take any other blood thinning medication other 
than Aspirin (Ibuprofen, Plavix, Coumadin) until cleared by the 
neurosurgeon. 
 You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
 You may have difficulty paying attention, concentrating, and 
remembering new information.
 Emotional and/or behavioral difficulties are common. 
 Feeling more tired, restlessness, irritability, and mood 
swings are also common.
 Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
 Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
 Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
 Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
 There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
 You were given information about headaches after TBI and the 
impact that TBI can have on your family.
 If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

When to Call Your Doctor at ___ for:
Severe pain, swelling, redness or drainage from the incision 
site. 
Fever greater than 101.5 degrees Fahrenheit
Nausea and/or vomiting
Extreme sleepiness and not being able to stay awake
Severe headaches not relieved by pain relievers
Seizures
Any new problems with your vision or ability to speak
Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
Sudden numbness or weakness in the face, arm, or leg
Sudden confusion or trouble speaking or understanding
Sudden trouble walking, dizziness, or loss of balance or 
coordination
Sudden severe headaches with no known reason

 
Followup Instructions:
___